US07232819B2
Step 1: 4-(tert-butoxycarbonyl)morpholine-3-carboxylic acid (C-5)
To a vigorously stirred solution of 3-morpholinecarboxylic acid and triethylamine (1.11 eq.) in MeOH at 50° C. was added di-t-butyl dicarbonate (2 eq.). Stirring was continued at 50° C. for 5 min and at room temperature overnight. The reaction mixture was then concentrated to obtain an oily residue and suspended between EtOAc and saturated NaHCO3. The organic layer was extracted with saturated NaHCO3 and H2O. The combined aqueous layers were brought to pH=2.0 with 3 M HCl and immediately extracted with EtOAc. The combined organic layers were washed with dilute HCl, dried, filtered and evaporated to give C-5 as a pale yellow oil, a 1:1 mixture of rotamers by NMR.

reactant | 3-morpholinecarboxylic acid | N1C(COCC1)C(=O)O | C5H9NO3
reactant | triethylamine | 1.11 eq. | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 2 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(tert-butoxycarbonyl)morpholine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1C(COCC1)C(=O)O | C10H17NO5
